US09023847B2
98. 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid 4-chloro-3-trifluoromethyl-benzylamide
This compound was prepared in an analogous manner as 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid (2-amino-ethyl)-amide using 3-chloro-4-(trifluoromethyl)benzylamine instead of tert-butyl-2-amino ethyl carbamate. LCMS (ESI) 451 (M+H) 1H NMR (400 MHz, DMSO-d6) δ ppm 11.54 (1H, br. s.) 10.24 (1H, s) 8.76 (1H, t, J=5.98 Hz) 8.02 (1H, d, J=5.47 Hz) 7.82 (2H, d, J=4.05 Hz) 7.65-7.71 (1H, m) 7.58-7.64 (1H, m) 7.50 (1H, d, J=5.42 Hz) 7.30 (1H, dd, J=3.29, 2.56 Hz) 6.84 (1H, d, J=5.42 Hz) 6.40 (1H, dd, J=3.49, 1.93 Hz) 4.52 (2H, d, J=5.91 Hz)

reactant | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid (2-amino-ethyl)-amide | NCCNC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C14H15N5OS
reactant | 3-chloro-4-(trifluoromethyl)benzylamine | ClC=1C=C(CN)C=CC1C(F)(F)F | C8H7ClF3N
product | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid 4-chloro-3-trifluoromethyl-benzylamide | ClC1=C(C=C(CNC(=O)C=2SC=CC2NC2=C3C(=NC=C2)NC=C3)C=C1)C(F)(F)F | C20H14ClF3N4OS
